* ===========================================================================
* qal_hop_probe.cir -- one inductive bank-to-bank hop through qal_hop, against
* the MEASURED per-hop delivery loss of qal_trackC.py:32.
*
* This is a direct re-build of the transistor/B-source reference deck
* qal_trackC_hop.cir with ONE substitution: its time-driven behavioural switch
*     Bsw mab B I={ (0.5*(1+tanh((TIME-8p)/TAU))/RON)*(V(mab)-V(B)) }
* is replaced by the qal_hop Verilog-A cell driven by a control ramp, so the
* freeze phasing lives in this deck (VCTL) rather than inside the model.
* L, the damping R, and the bank caps stay netlist elements -- a Verilog-A
* inductor does not compile under PyMS (see qal_hop.va).
*
* MEASURED TARGET (qal_trackC.py:32), loss per hop vs total series R, where
* loss = 1/2 C (dV^2 - VAmin^2 - VBpk^2) / (1/2 C dV^2) = 1 - (VAmin^2+VBpk^2)/dV^2:
*     R(ohm)  Q     loss/hop   (R is Ron ALONE; see the note below)
*       15   31.6     6.8%
*       30   19.8     9.2%
*       60   11.3    13.6%     (REAL SG13G2 w=10u)
*       90    7.9    17.4%
*      150    4.9    24.0%
* T6 wants these reproduced within 2 percentage points ABSOLUTE.
*
* AMBIGUITY IN THE REFERENCE -- RESOLVED FROM ITS OWN Q COLUMN. qal_trackC.py:10-11
* says the loss is plotted against "total series R (Ron + inductor R~10)", but the
* table's real-device row is labelled R=60 while the deck sets RON=60 AND Rlab=10.
* The Q column settles it: sqrt(L/C_eff) = sqrt(25nH/40fF) = 790.6, and
* 790.6/(R+10) gives 31.6, 19.8, 11.3, 7.9, 4.9 for R = 15, 30, 60, 90, 150 --
* exactly the table's Q values, whereas 790.6/R does not. So the table's R column
* is Ron ALONE and the total series resistance is Ron+10. This deck sets
* RONSW = that R column directly.
*
* Deck rules: absolute .hdl path, UIC, source names distinct from node names,
* no '$' comments on .measure lines.
* ===========================================================================
.hdl "/usr/local/src/stat-sim/qal/va/qal_hop.va"

.OPTIONS TIMEINT METHOD=GEAR RELTOL=1e-7 ABSTOL=1e-16 CHGTOL=1e-18

.param DV=0.6 CB=80f LH=25n RL=10 RONSW=30

* CJ=0 IS DELIBERATE AND IT IS WHAT MAKES T6 PASS. The reference deck already
* carries the switch parasitic as a NETLIST element (qal_trackC_hop.cir:7,
* 'Cmab mab 0 2f'), so leaving CJ=2f inside the cell DOUBLE-COUNTS it -- and also
* wrongly adds 2fF to the receiving bank. MEASURED cost of that mistake: every
* point moves +2.3 to +4.0 pp lossy and T6 fails. Rule: either the deck owns the
* parasitic (CJ=0, as here) or the cell does (CJ=2f, drop Cmab) -- never both.
.model hm qal_hop RON={RONSW} VON=0.6 VTAU=0.15 CJ=0 GM0=1e-12 ESCALE=1e15

C1 a 0 {CB}
C2 b 0 {CB}
Lab  a   xab {LH}
Rlab xab mab {RL}
Cmab mab 0 2f

* the freeze switch: closed from ~8ps (same instant as the reference deck's tanh)
VCTL ctl 0 PWL(0 0 6p 0 10p 1.2 200p 1.2)
YQAL_HOP H1 mab b ctl 0 ed 0 hm

.IC V(a)={DV} V(b)=0 V(mab)={DV}
.tran 0.05p 130p UIC

.measure tran VBPK  MAX V(b)
.measure tran VAMIN MIN V(a) FROM=50p TO=130p
.measure tran ESWL  FIND V(ed) AT=130p

.end
